US03973038
Acetylsalicyloyl chloride prepared by reaction of acetylsalicylic acid with thionyl chloride was condensed with 4-amino-2,6-dichlorophenol, and then deacetylated to give 3',5'-dichloro-2,4'-dihydroxybenzanilide. That compound (4 g.) was dissolved in cold anhydrous acetic acid (50 ml.) and with stirring there was added with 3 drops of concentrated sulfuric acid. After reaction for 1-2 hours at 5°-6° C., the solution was poured into ice-cold water (500 ml.) and the white precipitate thus formed was collected by filtration, rinsed with water, dried and recrystallized from methanol to give white needle-like crystals (3.65 g.) of 2,4'-diacetoxy-3',5'-dichlorobenzanilide. Yield: 71.1%. Melting point: 154°-156° C.

reactant | Acetylsalicyloyl chloride | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
reactant | acetylsalicylic acid | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-amino-2,6-dichlorophenol | NC1=CC(=C(C(=C1)Cl)O)Cl | C6H5Cl2NO
product | 3',5'-dichloro-2,4'-dihydroxybenzanilide | ClC=1C=C(NC(C2=C(C=CC=C2)O)=O)C=C(C1O)Cl | C13H9Cl2NO3
